US07608718B2
Part B: To a stirred solution of 3-(4-chlorophenyl)-4-phenyl-N-((piperidin-1-yl)sulfonyl)-4,5-dihydro-1H-pyrazole-1-thiocarboxamide (30 gram, 64.9 mmol) in acetone (1 L) is added triethylamine (18.0 mL, 130 mmol). To the resulting yellow solution is added methyl iodide (9.12 g, 64 mmol) and the resulting solution is stirred for 16 hours at room temperature. The formed precipitate is removed by filtration. The filtrate is washed with water, concentrated in vacuo to give a yellow solid. Recrystallisation from MTBE gives 3-(4-chlorophenyl)-N-((piperidin-1-yl)sulfonyl)-4-phenyl-4,5-dihydro-1H-pyrazole-1-carboximidothioic acid methyl ester (27.9 gram, 90% yield). MP: 192-194° C.

reactant | 3-(4-chlorophenyl)-4-phenyl-N-((piperidin-1-yl)sulfonyl)-4,5-dihydro-1H-pyrazole-1-thiocarboxamide | 64.9 mmol, 30 gram | ClC1=CC=C(C=C1)C1=NN(CC1C1=CC=CC=C1)C(NS(=O)(=O)N1CCCCC1)=S | C21H23ClN4O2S2
reactant | triethylamine | 130 mmol, 18.0 mL | C(C)N(CC)CC | C6H15N
reactant | methyl iodide | 64 mmol, 9.12 g | CI | CH3I
solvent | acetone | 1 L | CC(=O)C | C3H6O
product | 3-(4-chlorophenyl)-N-((piperidin-1-yl)sulfonyl)-4-phenyl-4,5-dihydro-1H-pyrazole-1-carboximidothioic acid methyl ester | 27.9 gram, 90% yield | CSC(=NS(=O)(=O)N1CCCCC1)N1N=C(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C22H25ClN4O2S2
